US07307076B2
b) 8-acetyl-6-benzyloxy-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one
6.60 g (16.2 mmol) N-(3-acetyl-5-benzyloxy-2-hydroxy-phenyl)-2-bromo-2-methyl-propionamide and 2.76 g (20 mmol) potassium carbonate are stirred for 1 hour in 70 mL acetonitrile at reflux temperature. The solid is suction filtered, the filtrate is evaporated down and the residue is combined with 30 mL ethyl acetate. After further filtration and after the solvent has been distilled off the crude product is recrystallised from a little methanol.

reactant | N-(3-acetyl-5-benzyloxy-2-hydroxy-phenyl)-2-bromo-2-methyl-propionamide | 16.2 mmol, 6.60 g | C(C)(=O)C=1C(=C(C=C(C1)OCC1=CC=CC=C1)NC(C(C)(C)Br)=O)O | C19H20BrNO4
reactant | potassium carbonate | 20 mmol, 2.76 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 70 mL | C(C)#N | C2H3N
product | 8-acetyl-6-benzyloxy-2,2-dimethyl-4H-benzo[1,4]oxazin-3-one | C(C)(=O)C1=CC(=CC=2NC(C(OC21)(C)C)=O)OCC2=CC=CC=C2 | C19H19NO4
